2192-08-26 02:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient's Hct decreased to 33 from 35 despite getting 3 units of PRBCs.
   Additionally, SBP dropped transiently to  80s and he passed a large,
   frankly bloody BM. He was given one more unit of PRBCs and IR and GI
   were notified. Per that discussion, patient was taken for tagged RBC
   scan, where bleeding was found in the sigmoid colon. While undergoing
   bleeding scan, patient's BP continued to intermittently drop and he
   received a total of 2 more units of blood and 3 liters of NS with
   transient increases in BP, but continued hematochezia. He was then
   brought up to the ICU for placement of a cordis and received 6 more
   units of PRBCs, 2 bags of FFP, 1 bag of platelets and 4 liters of NS.
   The plan was for IR intervention once he became hemodynamically stable,
   but patient was then noted to suddenly develop acute abdominal pain,
   abdominal distention and high pitched bowel sounds, which were
   concerning for a perforation. Surgery was notified and came to examine
   the patient, but he refused examination, stating that he only wanted to
   be made comfortable. He continued to refuse surgery at this point and
   had previously been made DNR/DNI. KUB was deferred as was angiographic
   intervention, at the patient's request. He was given Morphine boluses
   for comfort and the family was notified so that they could be present
   with him.  He was made CMO.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2192-8-26**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-26**] 02:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 99 (62 - 99) bpm
   BP: 113/61(73) {62/42(47) - 154/123(109)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  7,754 mL
                                                                  1,875 mL
   PO:
                                                                    100 mL
                  TF:
   IVF:
                                                                  4,250 mL
   Blood products:
                                                                  3,404 mL
                                                                  1,875 mL
   Total out:
                                                                  1,590 mL
                                                                      0 mL
   Urine:
                                                                  1,490 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  6,164 mL
                                                                  1,875 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   112 K/uL
   11.4 g/dL
   93 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   30.8 %
   19.5 K/uL
        [image002.jpg]
                             [**2192-8-25**]  08:37 AM
                             [**2192-8-25**]  02:44 PM
                             [**2192-8-25**]  05:42 PM
                             [**2192-8-25**]  08:53 PM
                             [**2192-8-25**]  11:23 PM
   WBC
   11.5
   19.5
   Hct
   35.4
   33.2
   33.0
   37.5
   30.8
   Plt
   199
   149
   112
   Cr
   1.2
   0.9
   0.9
   Glucose
   107
   119
   93
   Other labs: PT / PTT / INR:14.6/30.4/1.3, Ca++:6.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   # GIB: Confirmed bleeding in the sigmoid colon. Patient is no longer
   amenable to angiography and was never agreeable to surgery and these
   are essentially the extent of his definitive treatment options. Patient
   required several PRBCs and IVF and though currently hemodynamically
   stable, thought to be due to temporary halt of bleeding, he is at risk
   for further bleeding. Per repeated conversation with patient, he is
   only interested in being made comfortable with no further intervention.
   Additionally, his respiratory status is tenuous s/p multiple PRBCs and
   IVF boluses, so additional resuscitation would likely result in
   pulmonary edema, which would require Lasix and this would only
   potentiate hypotension.
   - Comfort measures only; no labs, avoid blood products and IVF,
   Morphine PRN for abdominal pain
   - Appreciate IR, GI and surgical input thus far
   .
   # GERD
   - Continue PPI
   - Continue Sucralfate
   .
   # FEN
   - NPO
   - IVF
   - Correct/Replete electrolytes PRN
   .
   # PPx
   - Pneumoboots
   - PPI IV BID
   .
   # Communication: With patient
   .
   # Code status: DNR/DNI/CMO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-8-25**] 07:52 AM
   Cordis/Introducer - [**2192-8-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-08-26 08:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient's Hct decreased to 33 from 35 despite getting 3 units of PRBCs.
   Additionally, SBP dropped transiently to  80s and he passed a large,
   frankly bloody BM. He was given one more unit of PRBCs and IR and GI
   were notified. Per that discussion, patient was taken for tagged RBC
   scan, where bleeding was found in the sigmoid colon. While undergoing
   bleeding scan, patient's BP continued to intermittently drop and he
   received a total of 2 more units of blood and 3 liters of NS with
   transient increases in BP, but continued hematochezia. He was then
   brought up to the ICU for placement of a cordis and received 6 more
   units of PRBCs, 2 bags of FFP, 1 bag of platelets and 4 liters of NS.
   The plan was for IR intervention once he became hemodynamically stable,
   but patient was then noted to suddenly develop acute abdominal pain,
   abdominal distention and high pitched bowel sounds, which were
   concerning for a perforation. Surgery was notified and came to examine
   the patient, but he refused examination, stating that he only wanted to
   be made comfortable. He continued to refuse surgery at this point and
   had previously been made DNR/DNI. KUB was deferred as was angiographic
   intervention, at the patient's request. He was given Morphine boluses
   for comfort and the family was notified so that they could be present
   with him.  He was made CMO.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2192-8-26**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-26**] 02:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 99 (62 - 99) bpm
   BP: 113/61(73) {62/42(47) - 154/123(109)} mmHg
   RR: 22 (13 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                  7,754 mL
                                                                  1,875 mL
   PO:
                                                                    100 mL
                  TF:
   IVF:
                                                                  4,250 mL
   Blood products:
                                                                  3,404 mL
                                                                  1,875 mL
   Total out:
                                                                  1,590 mL
                                                                      0 mL
   Urine:
                                                                  1,490 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                  6,164 mL
                                                                  1,875 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   General Appearance: Sleepy and slow to respond
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   Radiation to the axilla
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Rales and
   ronchi throughout
   Abdominal: Patient refusing exam
   Labs / Radiology
   112 K/uL
   11.4 g/dL
   93 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   30.8 %
   19.5 K/uL
        [image002.jpg]
                             [**2192-8-25**]  08:37 AM
                             [**2192-8-25**]  02:44 PM
                             [**2192-8-25**]  05:42 PM
                             [**2192-8-25**]  08:53 PM
                             [**2192-8-25**]  11:23 PM
   WBC
   11.5
   19.5
   Hct
   35.4
   33.2
   33.0
   37.5
   30.8
   Plt
   199
   149
   112
   Cr
   1.2
   0.9
   0.9
   Glucose
   107
   119
   93
   Other labs: PT / PTT / INR:14.6/30.4/1.3, Ca++:6.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   # GIB: Confirmed bleeding in the sigmoid colon. Patient is no longer
   amenable to angiography and was never agreeable to surgery and these
   are essentially the extent of his definitive treatment options. Patient
   required several PRBCs and IVF and though currently hemodynamically
   stable, thought to be due to temporary halt of bleeding, he is at risk
   for further bleeding. Per repeated conversation with patient, he is
   only interested in being made comfortable with no further intervention.
   Additionally, his respiratory status is tenuous s/p multiple PRBCs and
   IVF boluses, so additional resuscitation would likely result in
   pulmonary edema, which would require Lasix and this would only
   potentiate hypotension.
   - Comfort measures only; no labs, avoid blood products and IVF,
   Morphine PRN for abdominal pain
   - Appreciate IR, GI and surgical input thus far
   - Discontinue unnecessary meds
   .
   # Communication: With patient and family
   .
   # Code status: DNR/DNI/CMO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-8-25**] 07:52 AM
   Cordis/Introducer - [**2192-8-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2192-08-26 08:47:00 Physician Attending Progress Note
Chief Complaint: LGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   88 M PMH colon CA s/p hemicolectomy, multiple small bowel AVMs,
   diverticulitis, CAD s/p LAD stent admitted with LGIB.  Initial
   evaluation revealed likely sigmoid colon bleed. Unfortunately, last
   night he had massive bleeding following a tagged RBC scan.  He received
   a total of 12 units PRBC.  This was followed by severe abdominal pain.
   He declined to have further interventions including angiography and
   surgery.  He is now DNR/DNI/CMO and receiving morphine for his
   abdominal pain.
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2192-8-26**] 12:00 AM
   -As above.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2192-8-26**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-26**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35
C (95
   HR: 74 (62 - 100) bpm
   BP: 99/55(67) {62/42(47) - 154/123(109)} mmHg
   RR: 13 (11 - 27) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
           Total In:
                                                                  7,754 mL
                                                                  1,887 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                  4,250 mL
                                                                     12 mL
   Blood products:
                                                                  3,404 mL
                                                                  1,875 mL
   Total out:
                                                                  1,870 mL
                                                                  1,420 mL
   Urine:
                                                                  1,770 mL
                                                                    920 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  5,884 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   Physical Examination
 Deferred.
   Labs / Radiology
   11.4 g/dL
   112 K/uL
   93 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   30.8 %
   19.5 K/uL
        [image002.jpg]
                             [**2192-8-25**]  08:37 AM
                             [**2192-8-25**]  02:44 PM
                             [**2192-8-25**]  05:42 PM
                             [**2192-8-25**]  08:53 PM
                             [**2192-8-25**]  11:23 PM
   WBC
   11.5
   19.5
   Hct
   35.4
   33.2
   33.0
   37.5
   30.8
   Plt
   199
   149
   112
   Cr
   1.2
   0.9
   0.9
   Glucose
   107
   119
   93
   Other labs: PT / PTT / INR:14.6/30.4/1.3, Ca++:6.6 mg/dL, Mg++:1.9
   mg/dL, PO4:2.7 mg/dL
   Microbiology: None.
   Assessment and Plan
   88 M PMH colon CA s/p hemicolectomy, multiple small bowel AVMs,
   diverticulosis, CAD s/p LAD stent admitted with massive LGIB with
   likely sigmoid colon source.  He likely suffered a perforation last
   night and opted for no further interventions, with a focus on his
   comfort.  He is currently responsive and denies any pain.  Will
   continue morphine boluses PRN for comfort. DC other medications and lab
   draws.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-8-25**] 06:00 PM
   Cordis/Introducer - [**2192-8-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR / DNI / CMO
   Disposition : Remains in ICU.
   Total time spent:
   Addendum:
   Patient after conversation with Dr. [**First Name (STitle) 3518**] (his primary GI
   specialist) agrees to blood draws and transfusions.  Wishes to continue
   DNR/DNI, however does want to be treated for GIB.  Abdominal exam much
   improved currently soft, nontender.
   CC 45 minutes

2192-08-27 06:43:00 Physician Resident Progress Note
Chief Complaint:
   88M with h/o colon cancer and AVMs with multiple GIBs admitted with
   massive LGIB, initially thought to have bowel perf, now making
   excellent recovery with conservative management.
   24 Hour Events:
   CMO status reversed yesterday morning
   Hct stable, no further evidence of active bleeding
   CXR showed no free air under diaphragm
   Started on cipro/flagyl due to concern for microperforation, WBC
   decreased this am.
   Tolerating PO, oral meds restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None  SH: Pt lives with wife in [**Name2 (NI) 4705**], their son [**Name (NI) **] lives above
   them.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Reports some intermittent crampy abdominal pain. No SOB. Still having
   hematochezia in rectal tube.
   Flowsheet Data as of  [**2192-8-27**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 77 (70 - 84) bpm
   BP: 110/52(67) {91/40(51) - 125/67(76)} mmHg
   RR: 17 (9 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,466 mL
                                                                    582 mL
   PO:
                                                                    360 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    231 mL
                                                                    102 mL
   Blood products:
                                                                  1,875 mL
   Total out:
                                                                  2,190 mL
                                                                    245 mL
   Urine:
                                                                  1,590 mL
                                                                    245 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    276 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94% 3L
   ABG: ///24/
   Physical Examination
   General: A+O, NAD
   HEENT:MMdry
   Neck:Cordis in place
   CV:AS murmur, regular rate
   Pulm:CTAB
   Abd:mildly TTP, +BS
   Ext: resolving upper extremity pitting edema
   Neuro: Incredible lucid, alert and oriented
   Labs / Radiology
   116 K/uL
   14.8 g/dL
   74 mg/dL
   1.0 mg/dL
   24 mEq/L
   5.4 mEq/L
   19 mg/dL
   112 mEq/L
   142 mEq/L
   43.3 %
   13.1 K/uL
         [image002.jpg]
                             [**2192-8-25**]  08:37 AM
                             [**2192-8-25**]  02:44 PM
                             [**2192-8-25**]  05:42 PM
                             [**2192-8-25**]  08:53 PM
                             [**2192-8-25**]  11:23 PM
                             [**2192-8-26**]  12:06 PM
                             [**2192-8-27**]  03:16 AM
   WBC
   11.5
   19.5
   19.8
   13.1
   Hct
   35.4
   33.2
   33.0
   37.5
   30.8
   46.0
   43.3
   Plt
   199
   149
   112
   115
   116
   Cr
   1.2
   0.9
   0.9
   0.9
   1.0
   Glucose
   107
   119
   93
   120
   74
   Other labs: PT / PTT / INR:20.9/39.1/2.0, Differential-Neuts:94.0 %,
   Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.8 mg/dL
   No new micro data
   Assessment and Plan
   # GIB: Has history of AVMs, CT abd confirmed sigmoid source, initially
   shown to have active extravasation concerning for perforation, had
   acute abdomen, surgery consulted, but eval and intervention refused by
   the patient.  Pt received total of 12 units PRBCs, abd exam much
   improved, subsequent plain film imaging without evidence for free air.
   Had elevated WBC, now improving, not spiking fevers.  Still with some
   hematochezia but with stable HCT x >24 hours > 40.
   -Continue to monitor [**Hospital1 **] HCT
   -PO vitamin K for elevated INR in setting of massive transfusion
   -replete Ca in setting of transfusion
   -f/u GI recs
   -f/u surgery recs
   -continue abx for 7 day course, empiric GI coverage.
   -Continue PPI
   #h/o colon cancer. Per the patient and his wife all of the patient
s GI
   care has been organized by his gastroenterologist Dr. [**First Name (STitle) 1726**] who is
   following closely. Pt had concerning symptoms (weakness and long term
   weight loss) and CT scan with worsening mesenteric LAD and matting
   concerning for metastasis of his prior malignancy.
   -discuss long term plan for mgmt of colon ca with Dr. [**First Name (STitle) 1726**]
   [**Name (STitle) 4708**] goals of care with pt and family, he has already made it very
   clear he will not consider surgery or other very invasive measures.
   .
   #GERD: PPI
   #Hyperlipidemia. Statin
   #Hypertension. Hold home regimen in setting of GIB
   .
   # Communication: With patient and family
   .
   # Code status: DNR/DNI, CMO status reversed.
   ICU Care
   Nutrition: Heart healthy diet
   Glycemic Control:  well controlled
   Lines:
   18 Gauge - [**2192-8-25**] 06:00 PM
   Cordis/Introducer - [**2192-8-26**] 12:00 AM, leave in for now while
   trending hct and developing long term plan for recurrent bleed, would
   need 2 large bore peripheral IVs if removed.
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  not needed
   Comments:
   Communication:  Comments: With pt, wife, PCP emailed, both sons.
   [**Name (NI) 66**] status: DNR/DNI
   Disposition: Call out to floor if hct stable this afternoon and
   family/Dr. [**Last Name (STitle) 4691**] on same page with plan.

2192-08-27 10:01:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   large GI bleed - had initially refused aggressive intervention
   24 Hour Events:
   CMO status reversed
   HCT stable in 40
   Surgery still following
   COnitnues Cipro Flagyl for empiric civerage for perf
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2192-8-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-27**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 71 (70 - 84) bpm
   BP: 117/52(68) {91/40(51) - 125/67(76)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,466 mL
                                                                    615 mL
   PO:
                                                                    360 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    231 mL
                                                                    135 mL
   Blood products:
                                                                  1,875 mL
   Total out:
                                                                  2,190 mL
                                                                    348 mL
   Urine:
                                                                  1,590 mL
                                                                    348 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                    276 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Gen: lying in bed, AND
   Neck: supple
   CV: RR
   Chest: good air movement, decreased BS at bases, no
   Abd: soft + BS
   Ext:
   Labs / Radiology
   14.8 g/dL
   116 K/uL
   74 mg/dL
   1.0 mg/dL
   24 mEq/L
   5.4 mEq/L
   19 mg/dL
   112 mEq/L
   142 mEq/L
   43.3 %
   13.1 K/uL
        [image002.jpg]
                             [**2192-8-25**]  08:37 AM
                             [**2192-8-25**]  02:44 PM
                             [**2192-8-25**]  05:42 PM
                             [**2192-8-25**]  08:53 PM
                             [**2192-8-25**]  11:23 PM
                             [**2192-8-26**]  12:06 PM
                             [**2192-8-27**]  03:16 AM
   WBC
   11.5
   19.5
   19.8
   13.1
   Hct
   35.4
   33.2
   33.0
   37.5
   30.8
   46.0
   43.3
   Plt
   199
   149
   112
   115
   116
   Cr
   1.2
   0.9
   0.9
   0.9
   1.0
   Glucose
   107
   119
   93
   120
   74
   Other labs: PT / PTT / INR:20.9/39.1/2.0, Differential-Neuts:94.0 %,
   Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   Massive LGIB: currently holding HCt from 47 to 44 after 12 U PRBC
   intervention at site was done but he is now stabilizing. Will Call Dr
   [**Last Name (STitle) 4691**] to follow up on potential interventions
 pt is clear he would
   refuse surgery and likely scope as well at this point. We will maintain
   cordis, tx to maintain HCt > 30, IV PPI.
   Coagulopathy: likely consumptive and dilutional
 will give oral Vit K
   and trend.
   Remoiander of issues as per housestaff notes
 discussed on rounds
   ICU Care
   Nutrition: slowly advance diet
   Glycemic Control:  prn
   Lines:
   18 Gauge - [**2192-8-25**] 06:00 PM
   Cordis/Introducer - [**2192-8-26**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU

2192-08-28 06:25:00 Physician Resident Progress Note
Chief Complaint: 88 y/o M with severe LGIB, now with stable Hct
   24 Hour Events:
   Hct remained stable at 44
   Per Dr. [**Name (NI) 4691**], pt. would not want surgery, if bleeds again go
   directly to angio
   Ca, Mg and phos repleted
   Given 5mg PO vitamin K
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-27**] 10:00 PM
   Metronidazole - [**2192-8-28**] 12:05 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2192-8-27**] 03:15 PM
   Pantoprazole (Protonix) - [**2192-8-27**] 05:38 PM
   Carafate (Sucralfate) - [**2192-8-28**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-8-28**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 89 (62 - 89) bpm
   BP: 144/65(85) {107/32(56) - 161/67(107)} mmHg
   RR: 20 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,958 mL
                                                                    272 mL
   PO:
                                                                  1,440 mL
             TF:
   IVF:
                                                                    518 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,178 mL
                                                                    100 mL
   Urine:
                                                                  1,078 mL
                                                                    100 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    780 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General: A+O, NAD
   HEENT:MMdry
   Neck:Cordis in place
   CV:AS murmur, regular rate
   Pulm:CTAB
   Abd:mildly TTP, +BS
   Ext: resolving upper extremity pitting edema
   Neuro: Incredible lucid, alert and oriented
   Labs / Radiology
   145 K/uL
   14.9 g/dL
   82 mg/dL
   0.9 mg/dL
   24 mEq/L
   5.4 mEq/L
   19 mg/dL
   108 mEq/L
   141 mEq/L
   42.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2192-8-25**]  08:37 AM
                             [**2192-8-25**]  02:44 PM
                             [**2192-8-25**]  05:42 PM
                             [**2192-8-25**]  08:53 PM
                             [**2192-8-25**]  11:23 PM
                             [**2192-8-26**]  12:06 PM
                             [**2192-8-27**]  03:16 AM
                             [**2192-8-27**]  05:01 PM
                             [**2192-8-28**]  03:59 AM
   WBC
   11.5
   19.5
   19.8
   13.1
   11.3
   Hct
   35.4
   33.2
   33.0
   37.5
   30.8
   46.0
   43.3
   44.3
   42.3
   Plt
   199
   149
   112
   115
   116
   145
   Cr
   1.2
   0.9
   0.9
   0.9
   1.0
   0.9
   Glucose
   107
   119
   93
   120
   74
   82
   Other labs: PT / PTT / INR:14.3/39.1/1.2, Differential-Neuts:94.0 %,
   Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Albumin:2.9 g/dL, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan: 88 y/o M with LGIB, HCT now stable
   # GIB: Has history of AVMs, CT abd confirmed sigmoid source, initially
   shown to have active extravasation concerning for perforation, had
   acute abdomen, surgery consulted, but eval and intervention refused by
   the patient.  Pt received total of 12 units PRBCs. Had elevated WBC,
   now improving, not spiking fevers.  Still with some melena but with
   stable HCT x 48 hours.
   -Continue to monitor [**Hospital1 **] HCT
   -PO vitamin K x 3 days for elevated INR in setting of massive
   transfusion
   -follow Ca in setting of transfusion, repleted yesterday
   -f/u GI recs, plan for angio if rebleeds as tagged red cell scan have
   not been helpful
   -continue abx for 7 day course, empiric GI coverage.  Currently day [**3-9**]
   of cipro/flagyl
   -Continue PPI
   #h/o colon cancer. Per Closely followed by his outpatient
   gastroenterologist Dr. [**Last Name (STitle) 4691**] who in following patient in house. Pt
   had concerning symptoms (weakness and long term weight loss) and CT
   scan with worsening mesenteric LAD and matting concerning for
   metastasis of his prior malignancy.  Currently no plan for scope given
   recent significant bleed but may be reconsidered as outpatient.
   -discuss long term plan for mgmt of colon ca with Dr. [**First Name (STitle) 1726**]
   [**Name (STitle) 4708**] goals of care with pt and family, he has already made it very
   clear he will not consider surgery or other very invasive measures.
   .
   #GERD: PPI
   #Hyperlipidemia. Statin
   #Hypertension. Hold home regimen in setting of GIB
   .
   # Communication: With patient and family
   .
   # Code status: DNR/DNI, CMO status reversed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-8-25**] 06:00 PM
   Cordis/Introducer - [**2192-8-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: c/o to floor

2192-08-28 10:46:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   HPI: I saw and examined the patient, and was physically present with
   the ICU team for the key portions of the services provided. I agree
   with the note above, including the assessment and plan. I would
   emphasize and add the following points: Patient is an 88 yo male PMH
   significant for Multiple AVMs with 15 year history of recurrent GIB,
   CAD s/p Stent to LAD in [**2190**], HOCM, Mod AS and remote hx of Colon
   cancer ([**Location (un) 4677**] A) s/p R hemicolectomy in [**2176**].  Presented with massive
   GI bleed with contrast extravisation in area of sigmoid on CT scan.
   Received 12 Units PRBC over the weekend initially made CMO until
   bleeding resolved.               Currently with no signs of active
   bleeding.  Reports decreased edema but still has swelling in his hands,
   feet and scrotum.
   24 Hour Events:No events Hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2192-8-27**] 10:00 PM
   Metronidazole - [**2192-8-28**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2192-8-27**] 03:15 PM
   Pantoprazole (Protonix) - [**2192-8-27**] 05:38 PM
   Carafate (Sucralfate) - [**2192-8-28**] 06:00 AM
   Other medications:
   Protonix 40 q 24
   Simvistatin
   Sulcrafate
   Detrol
   Flagy 500 tid
   Cipro 750Q12
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: see HPI/24hr events
   Flowsheet Data as of  [**2192-8-28**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.7
   HR: 77 (62 - 93) bpm
   BP: 138/98(108) {109/32(56) - 161/98(108)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,958 mL
                                                                    612 mL
   PO:
                                                                  1,440 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    518 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                  1,178 mL
                                                                    200 mL
   Urine:
                                                                  1,078 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    780 mL
                                                                    412 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   exam today:Gen: A+O x 3 NAD, HEENT: wnl, Lungs: CTA bilaterally, CV:
   RRRs1s2 +SEM late peaking RUSB with A2 present.  Abd:+BS, soft, NT,
   ND.  Ext: 1+LE edema Skin: + cordis in neck CDI
   Labs / Radiology
   14.9 g/dL
   145 K/uL
   82 mg/dL
   0.9 mg/dL
   24 mEq/L
   5.4 mEq/L
   19 mg/dL
   108 mEq/L
   141 mEq/L
   42.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2192-8-25**]  08:37 AM
                             [**2192-8-25**]  02:44 PM
                             [**2192-8-25**]  05:42 PM
                             [**2192-8-25**]  08:53 PM
                             [**2192-8-25**]  11:23 PM
                             [**2192-8-26**]  12:06 PM
                             [**2192-8-27**]  03:16 AM
                             [**2192-8-27**]  05:01 PM
                             [**2192-8-28**]  03:59 AM
   WBC
   11.5
   19.5
   19.8
   13.1
   11.3
   Hct
   35.4
   33.2
   33.0
   37.5
   30.8
   46.0
   43.3
   44.3
   42.3
   Plt
   199
   149
   112
   115
   116
   145
   Cr
   1.2
   0.9
   0.9
   0.9
   1.0
   0.9
   Glucose
   107
   119
   93
   120
   74
   82
   Other labs: PT / PTT / INR:14.3/39.1/1.2, Differential-Neuts:94.0 %,
   Lymph:2.5 %, Mono:3.4 %, Eos:0.1 %, Albumin:2.9 g/dL, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan: Assessment and Plan: 88 yo male with massive GI
   bleed currently stabilized.
   1)GI bleed: Will discuss future management plans with patient and
   GI/surgery.
   -Will give Vit K x 3 days for elevated INR, continue Cipro/flagy for
   concern of micro perforation for 7 day course, [**Hospital1 **] hcts
   2)CV:   Would restart Beta blocker the HCTZ.
   3)FEN: advance to clears, Replete lytes
   4)Code: DNR/DNI
   5)Dispo: floor.
   ICU Care
   Nutrition:  advance diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2192-8-25**] 06:00 PM
   Cordis/Introducer - [**2192-8-26**] 12:00 AM  D
c Today.
   Prophylaxis:
   DVT:  Compression boots
   Stress ulcer: PPI
   Communication:  with pt and wife Dr [**Last Name (STitle) **] also stopped by to see how
   he was doing and agrred with plan as outlined
   Code status: DNR/DNI
   Disposition :Floor